Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin Hcl / Penicillins / Bactrim / Cephalexin / 
Nitrofurantoin / Dilantin / Tegretol / Iodine; Iodine Containing 
/ Phenobarbital
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, diarrhea, fevers
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI:
Ms. ___ is a ___ yo woman w/ h/o ESRD s/p renal transplant 
(___) on prednisone and sirolimus, recent UTI treated with 2 
wk course of Cipro and 2wk course of Bactrim, who presented with 
a 4 day history of diarrhea, fever, and low blood pressure. 
.
The pt's symptoms began last ___ (4 days prior to 
presentation), when she began to experience watery diarrhea, abd 
pain, chills, and rigors. The pt described the pain as a vague 
discomfort in her bowels, but that was primarily located in her 
back. The pain subsided by 2 days prior to presentation, but the 
diarrhea and other symptoms continued throughout the weekend: 
the diarrhea was watery and non-bloody and occured about 20 
times per day; the vomit was bilious and non-bloody; pt's 
temperature reached 100.5 on ___ (1 day prior to 
presentation); pt felt chills, tired, exhausted throughout the 
weekend. Pt presented to the ED on ___ after measuring her 
blood pressure at home and noticing that it was low and because 
her diarrhea and chills had been worsening throughout the 
weekend.
.
The pt explained that starting approximately ___ weeks ago, she 
developed a UTI (was experiencing urinary frequency and dysuria 
intermittently) and was treated with Ciprofloxacin (500 mg BID) 
for approx 2 weeks. The pt was then symptom free for about 2 
weeks after that, after which she began to re-experience similar 
symptoms, and was treated with Bactrim for two weeks, which she 
finished approximately one week prior to the onset of her 
symptoms on current presentation.
.
On presentation to the ED, pt's vitals were stable, and she was 
normotensive but was felt to be volume depleted. She was given 
3L of NS, and remained stable, after which she was admitted to 
our floor.
.
Additionally, the pt stated that she has been experiencing 
fevers for 3 out of 4 weeks for "years" ever since her kidney 
transplant, except she does not normally experience chills and 
rigors concurrently. 
.
On ROS, the pt stated that she has been also been experiencing a 
decrease in appetite (and approx 5lb weight loss over the past 
few days), fatigue, diffuse joint pain, headache, 
lightheadedness, palpitations, and nearly complete anuria. Pt 
denied changes in vision or hearing, CP, SOB, cough, melena, 
hematochezia, hematemesis, blackouts, fainting, incontinence. Pt 
denied sick contacts, recent travel, eating undercooked/raw 
meat/any food that she doesn't normally eat or that she noticed 
the diarrhea followed after consuming.

 
Past Medical History:
1. s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and sirolimus; baseline 
creatinine 1.0-1.2  
2. Osteopenia ___ chronic steroid use.  
3. Osteonecrosis of feet c/b osteomyelitis  
4. CAD:  NSTEMI ___, s/p cardiac cath without intervention 
5. Hyperlipidemia 
6. GERD
7. s/p craniotomy for ICH (?intracranial aneurysm)
8. s/p foot surgeries  
9. s/p cholecystecomy, s/p appendectomy
10. Hx of c.diff  
11. Hx of MRSA osteo ___   
12. Cataracts 
 
Social History:
___
Family History:
Son with remote history of heroin abuse, DM. 
 
Physical Exam:
Vitals: T-97.2 BP-142/80 HR-89 RR-16 O2sat-99%RA
General: well-appearing, smiling, joking, in NAD
HEENT: NCAT, sclera anicteric, conjunctiva pink, negative for 
lid lag
Neck: supple, no LAD, trachea midline, no JVD appreciable
Pulm: CTAB, no w/r/r, good air movt bilat
CV: RRR, nl S1, S2, ___ systolic ejection murmur heard 
throughout
Abd: soft, NTND, NABS, no organomegaly, no CVA tenderness
Extrem: warm, well-perfused, ecchymoses on legs bilat
Neuro: alert, responded appropriately to all questions, 
hyporeflexic
 
Pertinent Results:
___ 09:55AM BLOOD WBC-9.6 RBC-4.49 Hgb-11.8* Hct-36.7 
MCV-82 MCH-26.2* MCHC-32.1 RDW-14.9 Plt ___
___ 09:55AM BLOOD Neuts-68.5 ___ Monos-4.3 Eos-1.7 
Baso-0.6
___ 09:55AM BLOOD Glucose-88 UreaN-52* Creat-2.3* Na-134 
K-5.1 Cl-99 HCO3-18* AnGap-22*
___ 07:55PM BLOOD ALT-13 AST-22 AlkPhos-74 TotBili-0.1
___ 07:35AM BLOOD Calcium-8.5 Phos-3.1 Mg-1.7 Iron-14*
___ 07:35AM BLOOD calTIBC-179* Ferritn-111 TRF-138*
___ 09:15PM BLOOD TSH-0.19*
___ 07:35AM BLOOD Free T4-1.7
___ 09:55AM BLOOD rapmycn-3.7*
___ 07:35AM BLOOD Glucose-125* UreaN-30* Creat-1.3* Na-139 
K-4.9 Cl-109* HCO3-19* AnGap-16
___ 07:35AM BLOOD WBC-4.8 RBC-3.70* Hgb-9.7* Hct-31.1* 
MCV-84 MCH-26.2* MCHC-31.2 RDW-14.2 Plt ___
___ 08:46PM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 08:46PM URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-<1 
TransE-<1

Stool cultures: negative for c.diff toxin, no growth on cultures
Urine cultures: 100,___bdomen ___:
IMPRESSION: 
1. No evidence of intra-abdominal or intrapelvic infection. 
2. Extensive diverticulosis without diverticulitis. 
3. Stable transplant kidney in the right pelvis. No 
hydronephrosis or 
perinephric fluid. 
4. Stable pneumobilia. 
5. Degenerative changes in the lumbar spine. 

 
Brief Hospital Course:
1. DIARRHEA, VOMITING, FEVER:
Pt stated that diarrhea began to resolve upon hospitalization.  
She was afebrile during this admission and had no vomiting.  
Possible infectious etiologies included C. Diff. Colitis given 
recent abx use, viral gastroenteritis, CMV colitis given pt is 
immunosuppressed.  C. Difficile toxins were sent and were 
negative X 3.  Pt was empirically started on Metronidazole for 
possible C.Diff but this was stopped as pt was clinically 
improving and toxin screen came back negative.  CT of abdomen 
did not show any evidence for inflammatory or neoplastic 
diseases.  Chronic malabsorptive etiologies were less likely 
given time course of diarrhea.  Most likely etiology is viral 
gastroenteritis.  CMV serum PCR was negative.  Stool studies for 
salmonella, shigella and viral studies were negative.  
Preliminary blood cultures were negative and final blood 
cultures were pending at the time of dictation.
.
2. HYPOTENSION: 
Per patient report, BP was low (90s/40s) at home, so she did not 
take antihypertensives.  During hospitalization, BP was stable 
at 120s-130s systolic.  Blood pressure medications were 
restarted upon discharge.  Pt was instructed to take her 
Metoprolol but not take her Lisinopril until f/u with Dr. 
___ assessment of renal function and blood pressure.  
Pt takes BP at home and titrates her medications accordingly.
.
3. ACUTE RENAL FAILURE:
Pt arrived with creatinine of 2.3 (baseline 1.0-1.3). Pt was not 
drinking fluids and had decreased urine output prior to 
admission.  Most likely etiology is prerenal, given that after 
4L of fluids, creatinine returned to baseline of 1.3.  FeNA was 
less helpful, as urinalysis was done after receiving fluid.  
Other etiologies included ATN from ischemia or toxin-induced 
nephropathy from medications.  Lisinopril was stopped on 
admission and pt did not report taking any NSAIDs, Ibuprofen, 
Advil or Aleve.  Pt was also acidotic on admission with a 
bicarbonate level of 16.  This improved with fluids and although 
lactate level was 1.2 (after fluids), this likely represents a 
lactic acidosis from dehydration after diarrhea and vomiting.  
Pt has a single functioning transplanted kidney.  Of note, she 
has had 2 prior UTIs and urine culture came back with E.Coli 
100,000 colonies with 1 WBC and few bacteria in the UA.  Pt was 
completely asymptomatic of any urinary tract infection and 
antibiotics were not started at this time.  She will follow-up 
with a urologist, Dr. ___ discharge for her multiple UTIs 
and assess for any reflux. She will follow-up with her PCP ___. 
___ further kidney function studies.  
.
4. S/P RENAL TRANSPLANT ___:
Pt was continued on home dose of Sirolimus and Prednisone.  
Transplant Nephrology assessed the patient during this admission 
and there was no reason to suspect rejection of her transplanted 
kidney.  Sirolimus levels were checked during this admission.
.
5. HYPOTHYROIDISM:
Pt was continued on home dose of Levothyroxine.  TSH level was 
0.19, however free T4 was normal at 1.7.  Pt was euthyroid and 
was discharged on the same dose of Levothyroxine.
.
6. CAD: 
Pt had no symptoms of angina or equivalents during this 
admission. She was continued on aspirin 81mg daily.  She has not 
been on any statins due to side effects of muscle aches.  Her 
Metoprolol was held due to hx of hypotension. 
.
7. INSOMNIA:
Pt was maintained on Ambien 10mg qpm PRN and Clonazepam 0.5mg PO 
BID PRN for insomnia and anxiety.  She had no issues regarding 
these problems during this hospitalization.
.
8. GERD
Outpatient doses of Ranitidine were continued.  Pt did not have 
symptoms of GERD during this hospitalization.
.
9. RESTLESS LEG SYNDROME:
Mirapex 0.250mg was continued for this problem.  
.
10. FEN:
Pt was adequately fluid resuscitated with 3L NS, then 1L of LR 
for acidosis.  She was put on a regular diet.  Her electrolytes 
were normal.
.
11. Hospital Prophylaxis:
Pt was put on pneumoboots for DVT prophylaxis.
.
Pt was told to follow-up with her PCP ___ on ___, 
___.  She will also see a urologist, Dr. ___ to 
follow-up with her problem of recurrent UTIs.  Her C. Diff 
toxins were negative and blood cultures pending at the time of 
dictation.
 
Medications on Admission:
- Acyclovir 400 mg PO Q 24H
- Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
- Aspirin 81 mg qd
- Calcitriol 0.25 mcg PO BID 
- Clonazepam 0.5 mg PO BID:PRN anxiety 
- Ciprofloxacin 250 mg as needed
- Levothyroxine Sodium 125 mcg PO DAILY 
- Lisinopril 5mg as needed
- Metroprolol 25 mg bid
- Mirapex 0.125 mg 2/night
- OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
- Oxycodone-Acetaminophen 1 TAB PO Q6H:PRN pain 
- PredniSONE 5 mg PO DAILY 
- Prochlorperazine 10 mg PO Q6H:PRN nausea
- Sirolimus 1 mg PO DAILY 
- Ranitidine 150 mg PO QAM; Ranitidine 300 mg PO QPM 
- Zonegran 50 mg PRN
 
Discharge Medications:
1. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for anxiety, insomnia.  
5. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6 
hours) as needed for pain.  
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.  
8. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. Prochlorperazine Maleate 5 mg Tablet Sig: Two (2) Tablet PO 
Q6H (every 6 hours) as needed for nausea.  
10. Sirolimus 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
12. Pramipexole 0.25 mg Tablet Sig: One (1) Tablet PO qHS ().  
13. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO qam.  
14. Acyclovir 200 mg Capsule Sig: Four (4) Capsule PO once a 
day.  
15. Zonisamide 25 mg Capsule Sig: Two (2) Capsule PO ONCE (Once) 
for 1 doses.  
16. Ranitidine HCl 300 mg Tablet Sig: One (1) Tablet PO qPM.  
17. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO 
twice a day. Tablet(s) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Diarrhea
2. Acute Renal Failure

 
Discharge Condition:
good

 
Discharge Instructions:
You were admitted with diarrhea, fevers, vomitting and were 
found in have a decrease in your kidney function in the ER.  You 
were given 4 liters of fluid and your kidney function improved.  
Your diarrhea symptoms improved.  You were tested for 
C.Difficile infection.  One of these tests is negative and the 
other 1 is still pending at the time of discharge.  Your blood 
pressure medications were held during this admission.

Other than blood pressure medications, your other medications 
were not changed during this admission.  You should restart you 
metoprolol 25mg PO twice a day.  You should not restart 
Lisinopril until discussing this with Dr. ___ on ___.  
You should monitor your blood pressure at home.

You should come back to the emergency room with worsening 
diarrhea, vomiting, fevers >100.4, chills, night sweats, chest 
pain, palpitations, poor eating or decreased urine output.

You should follow-up with Dr. ___ on ___.
 
Followup Instructions:
___